US07297795B2
To a solution of 1-[(4-bromo-2-furyl)methyl]-4-methylpiperazine (1.43 g, 5.52 mmol) and tri-isopropyl borate (1.76 g, 9.38 mmol) in 20 mL of tetrahydrofuran at −78° C. was added 1.6 M n-butyl lithium in hexane (5.38 mL, 8.61 mmol) over 10 minutes. After stirring at −78° C. for 10 minutes, the temperature of the reaction mixture was allowed to rise to room temperature. Water (1.0 mL) was added and the solvents were removed in vacuo. The resultant intermediate boronic acid was dissolved in 20 mL of ethylene glycol dimethyl ether and 2-iodo-4-nitroanisole (1.06 mg, 4.25 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (87 mg, 0.11 mol) were added. A solution of 2.25 g of sodium carbonate in 6.5 mL of water was added and the resulting mixture was heated at reflux for 3 hours. The mixture was cooled to room temperature and partitioned between ethyl acetate and water. The aqueous layer was further extracted with ethyl acetate and the organic layers were combined, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash column chromatography, eluting with a gradient of 5% methanol in dichloromethane to 10% methanol in dichloromethane to give 900 mg (70%) of (4-methoxy-3-{5-[(4-methylpiperazin-1-yl)methyl]-3-furyl}phenyl)amine as a red oil.

reactant | 1-[(4-bromo-2-furyl)methyl]-4-methylpiperazine | 5.52 mmol, 1.43 g | BrC=1C=C(OC1)CN1CCN(CC1)C | C10H15BrN2O
reactant | tri-isopropyl borate | 9.38 mmol, 1.76 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 8.61 mmol, 5.38 mL | CCCCCC | C6H14
reactant | 2-iodo-4-nitroanisole | 4.25 mmol, 1.06 mg | IC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6INO3
reactant | dichloromethane | 0.11 mol, 87 mg | ClCCl | CH2Cl2
reactant | sodium carbonate | 2.25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 6.5 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | 1.0 mL | O | H2O
product | (4-methoxy-3-{5-[(4-methylpiperazin-1-yl)methyl]-3-furyl}phenyl)amine | 900 mg, 70% | COC1=C(C=C(C=C1)N)C1=COC(=C1)CN1CCN(CC1)C | C17H23N3O2
